US06515124B2
To a suspension of lithium aluminum hydride (215 mg, 5.7 mmol) in diethyl ether (15 mL) at 0° C. was added methyl 2,1,3-benzothiadiazole-5-carboxylate (1.0 g, 5.2 mmol) in one portion. The reaction mixture was allowed to stir at 0° C. for 10 min, then at room temperature for 24 h. Ethyl acetate (30 mL) was added very slowly dropwise at 0° C. The reaction mixture was then added slowly to an aqueous solution of potassium sodium tartrate (30% w/v; 100 mL) and stirred for 2 h. The reaction mixture was diluted with 100 mL of ethyl acetate and the layers were separated. The aqueous layer was re-extracted with ethyl acetate (1×100 mL). The combined organic layers were dried (MgSO4), filtered and evaporated under reduced pressure. The crude product was purified by flash chromatography (silica gel, 25% ethyl acetate in petroleum ether) to give 2,1,3-benzothiadiazole-5-methanol (400 mg, 47% yield) as an orange solid.

reactant | lithium aluminum hydride | 5.7 mmol, 215 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 2,1,3-benzothiadiazole-5-carboxylate | 5.2 mmol, 1.0 g | N=1SN=C2C1C=CC(=C2)C(=O)OC | C8H6N2O2S
reactant | potassium sodium tartrate | 100 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 2,1,3-benzothiadiazole-5-methanol | 400 mg, 47% yield | N=1SN=C2C1C=CC(=C2)CO | C7H6N2OS
